US04958033
In the same flask as in Example 1, there were charged granular magnesium (14.6 g), dry zinc chloride (6.8 g) and dry tetrahydrofuran (110 g). Propargyl bromide (0.88 g) was added thereto at 10° C. while stirring. The resultant mixture was kept in an adiabatic condition, whereupon the reaction proceeded. When the heat generation stopped, a mixture of 5-methylfurfural (55.06 g), propargyl bromide (64.5 g), tetrahydrofuran (55 g) and isopropyl ether (55 g) was dropwise added to the reaction mixture at 50° C. in 1.5 hours while stirring under cooling. The resultant mixture was kept at room temperature for 30 minutes while stirring. After completion of the reaction, the reaction mixture was treated in the same manner as in Example 1 to give 2-(1-hydroxy-3-butynyl)-5-methylfuran (60.5 g) in a yield of 81% (based on the starting 5-methylfurfural).

reactant | magnesium | 14.6 g | [Mg] | Mg
reactant | 5-methylfurfural | 55.06 g | CC1=CC=C(C=O)O1 | C6H6O2
reactant | propargyl bromide | 64.5 g | C(C#C)Br | C3H3Br
reactant | isopropyl ether | 55 g | C(C)(C)OC(C)C | C6H14O
catalyst | zinc chloride | 6.8 g | [Cl-].[Zn+2].[Cl-]
catalyst | Propargyl bromide | 0.88 g | C(C#C)Br | C3H3Br
solvent | tetrahydrofuran | 55 g | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 110 g | O1CCCC1 | C4H8O
product | 2-(1-hydroxy-3-butynyl)-5-methylfuran | 60.5 g, yield of 81% | OC(CC#C)C=1OC(=CC1)C | C9H10O2
